US05173484
a) 1-Benzyl-3-ethylaminomethyl-3-hydroxypyrrolidine
10.2 g (53.9 mmol) of 5-benzyl-5-aza-1-oxaspiro[2,4]heptane are added dropwise to 60 ml of aqueous ethylamine solution (50%) and the mixture is stirred overnight at room temperature. The batch is then concentrated and the residue is distilled.

reactant | 5-benzyl-5-aza-1-oxaspiro[2,4]heptane | 53.9 mmol, 10.2 g | C(C1=CC=CC=C1)N1CC2(CO2)CC1 | C12H15NO
reactant | ethylamine | 60 ml | C(C)N | C2H7N
product | 1-Benzyl-3-ethylaminomethyl-3-hydroxypyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)(O)CNCC | C14H22N2O
